US06203724B1
4-[4-(4-methoxy-4′-propylbicyclohexyl-4-yl)buta-1,3-diynyl]-4-methoxy-4′-propylbicyclohexyl
4.00 g of 4-ethynyl-4-methoxy-4′-propylbicyclohexyl, 5.04 g of 4-ethynyl-4,4′-dipentylbicyclohexyl, 10.65 g of copper(II) acetate monohydrate and 0.145 g of copper(I) iodide are refluxed overnight in a mixture of 25 ml of pyridine and 25 ml of methanol. Conventional work-up gives a mixture of the three coupling products 4-[4-(4,4′-dipentylbicyclohexyl-4-yl)buta-1,3-diynyl]-4-methoxy-4′-propylbicyclohexyl (C 76 N 136 I, Δε=0.95, Δn=0.006), 4-[4-(4,4′-dipentylbicyclohexyl-4-yl)buta-1,3-diynyl]-4,4′-dipentylbicyclohexyl and 4-[4-(4-methoxy-4′-propylbicyclohexyl-4-yl)buta-1,3-diynyl]-4-methoxy-4′-propylbicyclohexyl (C 121 N (80) I, Δε=−1.77, Δn=−0.002), which can easily be separated by chromatography.

reactant | 4-ethynyl-4-methoxy-4′-propylbicyclohexyl | 4.00 g | C(#C)C1(CCC(CC1)C1CCC(CC1)CCC)OC | C18H30O
reactant | 4-ethynyl-4,4′-dipentylbicyclohexyl | 5.04 g | C(#C)C1(CCC(CC1)C1CCC(CC1)CCCCC)CCCCC | C24H42
reactant | 4-[4-(4,4′-dipentylbicyclohexyl-4-yl)buta-1,3-diynyl]-4-methoxy-4′-propylbicyclohexyl | C(CCCC)C1(CCC(CC1)C1CCC(CC1)CCCCC)C#CC#CC1(CCC(CC1)C1CCC(CC1)CCC)OC | C42H70O
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | 25 ml | CO | CH4O
catalyst | copper(II) acetate monohydrate | 10.65 g | O.C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper(I) iodide | 0.145 g | [Cu]I
product | 4-[4-(4-methoxy-4′-propylbicyclohexyl-4-yl)buta-1,3-diynyl]-4-methoxy-4′-propylbicyclohexyl | COC1(CCC(CC1)C1CCC(CC1)CCC)C#CC#CC1(CCC(CC1)C1CCC(CC1)CCC)OC | C36H58O2
